US08404684B2
1-[2-(1-Ethyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea
This compound is prepared from imidazole-1-carboxylic acid [5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-amide (imidazole-urea intermediate BD) and 2-(1-ethyl-1H-imidazol-4-yl)-ethylamine (thiourea intermediate CC1) using general procedure A.

reactant | imidazole-1-carboxylic acid [5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-amide | CS(=O)C1=NC(=CC(=N1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C)C | C14H14N6O2S2
reactant | 2-(1-ethyl-1H-imidazol-4-yl)-ethylamine | C(C)N1C=NC(=C1)CCN | C7H13N3
product | 1-[2-(1-Ethyl-1H-imidazol-4-yl)-ethyl]-3-[5-(2-methanesulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | C(C)N1C=NC(=C1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)C | C18H23N7O2S2
